US04303655
To a mixture of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-hydroxy-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, (5.2 g.), methanol (200 ml.) and 1 N sodium hydroxide aqueous solution (10.8 ml.) was dropwise added a mixture of sodium borohydride (0.205 g.) and ethanol (8 ml.) over 10 minutes at 5° to 10° C. with stirring. The mixture was further stirred for 20 minutes at the same temperature, and then a mixture of sodium borohydride (0.01 g.) and ethanol (0.5 ml.) was further added thereto at the same temperature. The mixture was further stirred for 30 minutes at the same temperature, and then the reaction mixture was concentrated under reduced pressure. To the residue was added water (200 ml.), and the solution was washed with ethyl acetate. The aqueous solution was adjusted to pH 5 with 10% hydrochloric acid and washed with ethyl acetate. The solution was adjusted to pH 1 with 10% hydrochloric acid and extracted with ethyl acetate. The remaining aqueous layer was subjected to salting-out and then further extracted with ethyl acetate. The ethyl acetate extracts were combined together, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then treated with activated charcoal. The solvent was distilled off, and the residue was pulverized in diethyl ether, collected by filtration and then dried to give pale yellow powder of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-hydroxy-2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-hydroxy-2-(2-hydroxy-1-3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, (3.6 g.), mp. 110° to 121° C. (dec.).

reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2NC(SC2)=O)=O)=O | C15H13N7O6S3
reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-hydroxy-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | 5.2 g | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2N=C(SC2)O)=O)=O | C15H13N7O6S3
reactant | methanol | 200 ml | CO | CH4O
reactant | sodium hydroxide | 1 N, 10.8 ml | [OH-].[Na+]
reactant | sodium borohydride | 0.205 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.01 g | [BH4-].[Na+]
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-hydroxy-2-(2-oxo-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2NC(SC2)=O)O)=O)=O | C15H15N7O6S3
